US08309718B2
4-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)pyrimidin-2-ylamino)benzoic Acid
A mixture of 3-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclopentylpropanenitrile (500.0 mg, 0.001657 mol), p-aminobenzoic acid (341 mg, 0.00248 mol), and p-toluenesulfonic acid (240 mg, 0.0014 mol) in dry 1,4-dioxane (10 mL) was refluxed overnight. The mixture was cooled to room temperature. The resulting solid was filtered, washed with dioxane, and air dried to yield the desired product as a racemic mixture (460 mg, 69%). LCMS (M+H) 403.1.

reactant | 3-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclopentylpropanenitrile | 0.001657 mol, 500.0 mg | ClC1=NC=CC(=N1)C=1C=NN(C1)C(CC#N)C1CCCC1 | C15H16ClN5
reactant | p-aminobenzoic acid | 0.00248 mol, 341 mg | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | p-toluenesulfonic acid | 0.0014 mol, 240 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)pyrimidin-2-ylamino)benzoic Acid | C(#N)CC(C1CCCC1)N1N=CC(=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)O)C=C1 | C22H22N6O2
